US06555571B2
(Step 1) 1-Methylsulfonyloxy-7,7,8,8,8-pentafluorooctane
7,7,8,8,8-Pentafluorooctan-1-ol(25 g, 113 mmol) was dissolved in dichloromethane (250 ml), triethylamine(47.4 ml, 339 mmol) and methanesulfonylchloride(17.6 ml, 227 mmol) were added dropwise under cooling to 0° C., and the resulting mixture was stirred for 1 hour. The reaction solution was diluted with water, extracted twice with dichloromethane(200 ml), washed with water and saturated saline solution, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:ethyl acetate/n-hexane=1/10, v/v) to give 30 g(100 mmol, Yield 89%) of the title compound.

reactant | 7,7,8,8,8-Pentafluorooctan-1-ol | 113 mmol, 25 g | FC(CCCCCCO)(C(F)(F)F)F | C8H13F5O
reactant | triethylamine | 339 mmol, 47.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 227 mmol, 17.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-Methylsulfonyloxy-7,7,8,8,8-pentafluorooctane | 100 mmol, 30 g, Yield 89% | CS(=O)(=O)OCCCCCCC(C(F)(F)F)(F)F | C9H15F5O3S
